US07598376B2
39.6 g of potassium hydroxide powder 85% (0.6 mol) are introduced into a mixture of 35 g of diacetylhydrazine (0.3 mol) and 560 ml of solvent (see Table 1). When the heat of reaction has died away, 85.8 g of 2,2-dichlorodiethyl ether (0.6 mol) are added; the reaction mixture is heated to 80° C. and maintained at 80-90° C. for 5 hours. The mixture is then cooled to 20° C. and filtered, and the filtration residue is washed with the solvent. The yield is given by the content of title compound in the combined filtrate. It will be seen that the solvents used according to the invention (tests 4-7) give far better yields of 4,5-diacetyl-[1,4,5]-oxadiazepine than N,N-dimethylformamide, which is known from the above prior art (DMFA, comparison test 8).

reactant | potassium hydroxide | 0.6 mol, 39.6 g | [OH-].[K+]
reactant | diacetylhydrazine | 0.3 mol, 35 g | C(C)(=O)NNC(C)=O | C4H8N2O2
reactant | 2,2-dichlorodiethyl ether | 0.6 mol, 85.8 g | CCOCC(Cl)Cl | C4H8Cl2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4,5-diacetyl-[1,4,5]-oxadiazepine | C(C)(=O)N1C=COC=CN1C(C)=O | C8H10N2O3
